US07312234B2
AMD9369: Preparation of 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzamide (hydrobromide salt)
N-BOC-chloromethyl benzimidazole (215 mg, 0.84 mmol), N-Pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzamide (AMD9363) (300 mg, 0.84 mmol), and K2CO3 (346 mg, 2.50 mmol) were heated to reflux in CH3CN (4 mL) for 24 hours under N2. The reaction mixture was diluted with 200 mL ethyl acetate, and washed with sat. NaHCO3, then brine, and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatography on silica gel, followed by radial chromatography on silica gel (1 mm plate, 3:3:94 CH3OH—NH3 H2O—CH2Cl2,), afforded the free base of the title compound (120 mg, 28%) as pale yellow oil.

reactant | N-BOC-chloromethyl benzimidazole | 0.84 mmol, 215 mg | C(=O)(OC(C)(C)C)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | N-Pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzamide | 0.84 mmol, 300 mg | N1=C(C=CC=C1)CNC(C1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12)=O | C23H24N4O
reactant | K2CO3 | 2.50 mmol, 346 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzamide | 120 mg, 28% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C(=O)NCC1=NC=CC=C1)C=C2 | C31H30N6O
